US06107329
(+)-2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-propionic acid methyl ester
From 5-chloro-1H-indole-2-carboxylic acid and DL-alanine methyl ester hydrochloride. mp 199-201° C.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | DL-alanine methyl ester hydrochloride | Cl.COC(C(N)C)=O
product | (+)-2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-propionic acid methyl ester | COC(C(C)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C13H13ClN2O3
